US09061998B2
Intermediate 29: (1-(4-Bromophenyl)cyclopentyl)methanol
To a solution of 1-(4-bromophenyl)cyclopentanecarboxylic acid (Enamine, 1 g, 3.72 mmol) in tetrahydrofuran (10 mL), at 0° C. was added slowly LiAlH4 1M/THF (7.43 mL, 7.43 mmol). The reaction mixture was stirred at room temperature for 1 h and quenched by water. The product was extracted with DCM and the organic layer was evaporated under reduced pressure. The product was purified on silica gel column chromatography using a cyclohexane to cyclohexane/EtOAc 70:30 as eluant. The appropriate fractions were combined and concentrated in vacuo to give the title product (1-(4-bromophenyl)cyclopentyl)methanol (832 mg, 3.26 mmol, 88% yield) as a colourless oil. 1H NMR: (DMSO-d6, 300 MHz) δ 7.40 (m, 2H), 7.25 (m, 2H), 4.65 (m, 1H), 3.38 (m, 2H), 1.95 (m, 2H), 1.65 (m, 6H).

reactant | 1-(4-bromophenyl)cyclopentanecarboxylic acid | 3.72 mmol, 1 g | BrC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13BrO2
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 7.43 mmol, 7.43 mL | C1CCOC1 | C4H8O
product | (1-(4-bromophenyl)cyclopentyl)methanol | 3.26 mmol, 832 mg, 88% yield | BrC1=CC=C(C=C1)C1(CCCC1)CO | C12H15BrO
